US04256759
The suspension of 1.0 g of 1,2,5-trimethyl-β-oxo-3-pyrrolpropionitrile, 40 ml of toluene and 0.7 g of triethylamine is treated with 0.75 g of phenylisocyanate and warmed for 5 minutes on the steam cone until all is dissolved. After standing overnight, the precipitate formed is collected, taken up in methanol, and the solution added to the mixture of 3 ml of 5 N hydrochloric acid and 250 ml of water. The crude product formed is collected, washed with water, dissolved in 5% aqueous sodium hydroxide, filtered, and the alkaline filtrate acidified with 5 N hydrochloric acid. The precipitate is collected, washed with water, air-dried and recrystallized from ethanol, to yield the 1,2,5-trimethyl-β-oxo-α-phenylcarbamoyl-3-pyrrolpropionitrile melting at 158°-160°.

reactant | 1,2,5-trimethyl-β-oxo-3-pyrrolpropionitrile | 1.0 g | CN1C(=C(C=C1C)C(CC#N)=O)C | C10H12N2O
reactant | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
reactant | phenylisocyanate | 0.75 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | triethylamine | 0.7 g | C(C)N(CC)CC | C6H15N
product | 1,2,5-trimethyl-β-oxo-α-phenylcarbamoyl-3-pyrrolpropionitrile | CN1C(=C(C=C1C)C(C(C#N)C(NC1=CC=CC=C1)=O)=O)C | C17H17N3O2
